US09422271B2
A mixture of 5-(4-bromo-5-chloropyrimidin-2-yl)thiophene-2-sulfonyl chloride (164 mg, 0.45 mmol, 1.0 equiv.), tert-butyl hydrazinecarboxylate (119 mg, 0.9 mmol, 2.0 equiv.) and DIPEA (5 mL) was stirred in DCM at r.t. for 2 h, The reaction was extracted with EA and the combined layers were dried (Na2SO4), filtered. The filtrate was concentrated to afford tert-butyl 2-(5-(4-bromo-5-chloropyrimidin-2-yl)thiophen-2-ylsulfonyl)hydrazinecarboxylate (179 mg, 85%). LC-MS (m/z)=469 [M+H]+

reactant | 5-(4-bromo-5-chloropyrimidin-2-yl)thiophene-2-sulfonyl chloride | 0.45 mmol, 164 mg, 1.0 equiv. | BrC1=NC(=NC=C1Cl)C1=CC=C(S1)S(=O)(=O)Cl | C8H3BrCl2N2O2S2
reactant | tert-butyl hydrazinecarboxylate | 0.9 mmol, 119 mg, 2.0 equiv. | N(N)C(=O)OC(C)(C)C | C5H12N2O2
reactant | DIPEA | 5 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | tert-butyl 2-(5-(4-bromo-5-chloropyrimidin-2-yl)thiophen-2-ylsulfonyl)hydrazinecarboxylate | 179 mg, 85% | BrC1=NC(=NC=C1Cl)C1=CC=C(S1)S(=O)(=O)NNC(=O)OC(C)(C)C | C13H14BrClN4O4S2
